US05837711
To a solution of 2-(5-amino-2-methoxyphenyl)-1,3-dioxolane (867 mg, 4.4 mmol) in pyridine (2 ml) was added methanesulfonyl chloride (375 μl, 4.84 mmol) and stirred for 20 hr. To the resulted reaction mixture was added water and aqueous NaHCO3, and then extracted with ether/CH2Cl2. The extract was evaporated in vacuo to give crude 2-(5-methylsulfonylamino-2-methoxyphenyl)-1,3-dioxolane (1.06 g, 88.1%) as a slight brown oil.

reactant | 2-(5-amino-2-methoxyphenyl)-1,3-dioxolane | 4.4 mmol, 867 mg | NC=1C=CC(=C(C1)C1OCCO1)OC | C10H13NO3
reactant | methanesulfonyl chloride | 4.84 mmol, 375 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-(5-methylsulfonylamino-2-methoxyphenyl)-1,3-dioxolane | 1.06 g, 88.1% | CS(=O)(=O)NC=1C=CC(=C(C1)C1OCCO1)OC | C11H15NO5S
